US05164407
Step A: 2-Butyl-1-[(2'-{N-triphenylmethyltetrazol-5-yl}biphen-4-yl)methyl]-5-chloro-1H-imidazole-4-carboxaldehyde
This Step A compound can be prepared as described in Example 3, Step A, except that 2-butyl-1-[(2'-{N-triphenylmethyltetrazol-5-yl}biphen-4-yl)-methyl]-5-chloro-1H-imidazole-4-methanol (European Patent Applications 253,310 and 291,969) can be used as the starting material for the oxidation instead of 2-butyl-1-[(2'-t-butoxycarbonylbiphen-4-yl)methyl]-5-chloro-1H-imidazole-4-methanol.

reactant | 2-butyl-1-[(2'-{N-triphenylmethyltetrazol-5-yl}biphen-4-yl)-methyl]-5-chloro-1H-imidazole-4-methanol | C(CCC)C=1N(C(=C(N1)CO)Cl)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H37ClN6O
reactant | 2-butyl-1-[(2'-t-butoxycarbonylbiphen-4-yl)methyl]-5-chloro-1H-imidazole-4-methanol | C(CCC)C=1N(C(=C(N1)CO)Cl)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C26H31ClN2O3
product | 2-Butyl-1-[(2'-{N-triphenylmethyltetrazol-5-yl}biphen-4-yl)methyl]-5-chloro-1H-imidazole-4-carboxaldehyde | C(CCC)C=1N(C(=C(N1)C=O)Cl)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H35ClN6O
